US03970704
A mixture of 33 g. of 1-bromo-3,7,11-trimethyldodeca-2,4,10-triene and 100 ml. of dry ethylene glycol is slowly added with stirring, to a suspension of 11.5 g. of potassium fluoride in 30 ml. of dry ethylene glycol and heated to about 120°, under an inert atmosphere. When addition is completed, the reaction mixture is stirred for about an additional 16 hours while maintaining the temperature at 120°. Then the mixture is cooled and 200 ml. of ether added. The mixture is washed thoroughly with water and the ether phase dried over sodium sulfate and solvent evaporated under reduced pressure to yield 1-fluoro-3,7,11-trimethyldodeca-2,4,10-triene.

reactant | 1-bromo-3,7,11-trimethyldodeca-2,4,10-triene | BrCC=C(C=CCC(CCC=C(C)C)C)C | C15H25Br
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | potassium fluoride | [F-].[K+]
solvent | ether | CCOCC | C4H10O
product | 1-fluoro-3,7,11-trimethyldodeca-2,4,10-triene | FCC=C(C=CCC(CCC=C(C)C)C)C | C15H25F
